US05135936
The compounds of the invention can be prepared by esterification of the enantiomers of methyl 3-carboxy-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-5-pyridinedicarboxylate with the enantiomers of 1-azabicyclo[2.2.2]octan-3-ol (3-quinuclidinol). The acid may be prepared by condensation of 3-nitrobenzaldehyde with methyl 3-aminocrotonate and 2-cyanoethyl acetoacetate to afford 2-cyanoethyl methyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate which may be hydrolyzed with one equivalent of a suitable base (G.B. Patent 2122192), e.g. NaOH, to give methyl 3-carboxy-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-5-pyridinedicarboxylate. Resolution of the acid is achieved by recrystallization of the cinchonidine (U.S. Pat. No. 4,920,225) addition salt from ethanol free chloroform. The enantiomers of 3-quinuclidinol are obtained by the procedure of B. Ringdahl, B. Resul and R. Dahlbom (Acta. Pharm. Seuc., 1979, 16, 281).

reactant | 1-azabicyclo[2.2.2]octan-3-ol | N12CC(C(CC1)CC2)O | C7H13NO
reactant | 3-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl 3-aminocrotonate | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 2-cyanoethyl acetoacetate | C(CC(=O)C)(=O)OCCC#N | C7H9NO3
product | 2-cyanoethyl methyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate | CC=1NC(=C(C(C1C(=O)OCCC#N)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C19H19N3O6
